US08871756B2
(5Z)—N-Methoxy-1,2,3,4-tetrahydro-5H-2-benzazepin-5-imine
A mixture of 1,2,3,4-tetrahydro-1-benzazepin-5-one (500 mg, 2.530 mmol), O-methyl hydroxylamine hydrochloride (211 mg, 2.530 mmol), sodium acetate (208 mg, 2.530 mmol) and sodium carbonate (536 mg, 5.060 mmol) in ethanol was refluxed for 3 hours. The resulting mixture was concentrated in vacuo to remove ethanol and to the residue was added water (15 mL). The residue in water was extracted with dichloromethane (15 mL×3). The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to afford 326 mg of the desired product (yield was 67%).

reactant | 1,2,3,4-tetrahydro-1-benzazepin-5-one | 2.530 mmol, 500 mg | N1CCCC(C2=C1C=CC=C2)=O | C10H11NO
reactant | O-methyl hydroxylamine hydrochloride | 2.530 mmol, 211 mg | Cl.CON
reactant | sodium acetate | 2.530 mmol, 208 mg | C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | 5.060 mmol, 536 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (5Z)—N-Methoxy-1,2,3,4-tetrahydro-5H-2-benzazepin-5-imine | 326 mg, yield was 67% | CO\N=C/1\CCNCC2=C1C=CC=C2 | C11H14N2O
